US06166006
To a solution of ethyl vanillate (2.50 g) and triethylamine (3.6 ml) in dichloromethane (50 ml) was added at 0° C. trifluoromethanesulfonic acid anhydride (2.6 ml), and the mixture was stirred for 1.5 hours. To the mixture was added water (15 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the mixture was concentrated, and the residue was purified with column chromatography (ethyl acetate/hexane=1:15) to give yellow oil of ethyl 3-methoxy-4-trifluoromethane-sulfonyloxybenzoate (3.96 g).

reactant | ethyl vanillate | 2.50 g | C(C1=CC(OC)=C(O)C=C1)(=O)OCC | C10H12O4
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 2.6 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | ethyl 3-methoxy-4-trifluoromethane-sulfonyloxybenzoate | 3.96 g | COC=1C=C(C(=O)OCC)C=CC1OS(=O)(=O)C(F)(F)F | C11H11F3O6S
